US08609644B2
3,17-Dioxoandrostane-6α-yl nitrate (II-aa)
A solution of 3,3:17,17-bis(ethylendioxy)androstane-6α-yl nitrate (2.50 g) and pTSA.H2O (6.05 g) in acetone (150 mL) was stirred at room temperature for 1.5 h. The solution was neutralized by addition of 5% aqueous NaHCO3, and acetone was evaporated. The aqueous phase was extracted with CH2Cl2 (3×50 mL). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, cyclohexane/acetone/CH2Cl2 70/15/15) to give the title compound II-aa as a white solid (1.66 g, 75%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 5.09 (ddd, 1H), 2.60-0.95 (m, 17H), 1.25 (s, 3H), 0.90 (s, 3H).

reactant | 17,17-bis(ethylendioxy)androstane-6α-yl nitrate | 2.50 g | [N+](=O)(O[C@H]1C[C@H]2[C@@H]3CC45C([C@@]3(C)CC[C@@H]2[C@]2(CCCCC12)C)(OCCO4)OCCO5)[O-] | C23H35NO7
reactant | pTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | H2O | 6.05 g | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 3,17-Dioxoandrostane-6α-yl nitrate | [N+](=O)(O[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O)[O-] | C19H27NO5
